US09079866B2
4′-(6-Amino-4-cyanopyridin-3-yl)-N-tert-butyl-3′-fluorobiphenyl-2-sulfonamide
The title compound was prepared using analogous conditions to those described in Example 6 utilizing 2-amino-5-(4-bromo-2-fluorophenyl)pyridine-4-carbonitrile and (2-(N-(tert-butyl)sulfamoyl)phenyl)boronic acid. MS (ESI): mass calcd. for C22H21FN4O2S, 424.14; m/z found, 425.1 [M+H]+. 1H NMR (600 MHz, CDCl3) δ 8.18 (d, J=7.8, 1H), 8.01 (s, 1H), 7.64-7.58 (m, 1H), 7.57-7.51 (m, 1H), 7.46-7.28 (m, 4H), 3.91 (s, 1H), 1.04 (s, 9H).

reactant | 2-amino-5-(4-bromo-2-fluorophenyl)pyridine-4-carbonitrile | NC1=NC=C(C(=C1)C#N)C1=C(C=C(C=C1)Br)F | C12H7BrFN3
reactant | (2-(N-(tert-butyl)sulfamoyl)phenyl)boronic acid | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)B(O)O | C10H16BNO4S
product | 4′-(6-Amino-4-cyanopyridin-3-yl)-N-tert-butyl-3′-fluorobiphenyl-2-sulfonamide | NC1=CC(=C(C=N1)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)NC(C)(C)C)F)C#N | C22H21FN4O2S
